US04367238
A solution of 2-chlorophenyl 2-methoxy-3-chloromethylphenyl ether (6.3 g) in dimethyl sulfoxide (40 ml) and powdered potassium cyanide (1.55 g) were treated in a similar manner to that of Example 3-(7) to give oily 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]acetonitrile (6.0 g).

reactant | 2-chlorophenyl 2-methoxy-3-chloromethylphenyl ether | 6.3 g | COC1=C(C=CC=C1CCl)OC1=C(C=CC=C1)Cl | C14H12Cl2O2
reactant | potassium cyanide | 1.55 g | [C-]#N.[K+]
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]acetonitrile | 6.0 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC#N | C15H12ClNO2
